US06265434B1
Step A: 4-(Trifluoromethylsulfonyloxy)benzofurazan
A solution of 4-hydroxybenzofurazan (680 mg, 5 mmol) and pyridine (2.02 mL, 25 mmol) in 8 mL CH2Cl2 under nitrogen at 0° C. was treated with trifluoromethanesulfonic anhydride (1.02 mL, 6 mmol). The resulting mixture was stirred at 0° C. for 1 h. The mixture was diluted with 100 mL CH2Cl2, washed with 50 mL of 0.5 M NaOH, 50 mL of H2O, 5% AcOH (2×50 mL), and 50 mL of H2O. The organic layer was dried over Na2SO4 and concentrated. Flash chromatography on 30 g of silica gel using, 9:1 v/v hexanes/EtOAc as the eluant afforded 940 mg (70%) of the title compound.

reactant | 4-hydroxybenzofurazan | 5 mmol, 680 mg | OC1=CC=CC=2C1=NON2 | C6H4N2O2
reactant | pyridine | 25 mmol, 2.02 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6 mmol, 1.02 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(Trifluoromethylsulfonyloxy)benzofurazan | 940 mg, 70% | FC(S(=O)(=O)OC1=CC=CC=2C1=NON2)(F)F | C7H3F3N2O4S
